US06541491B1
A mixture of (2S,4S)-2-formyl4-BOCsulfanyl-pyrrolidine-1-carboxylic acid allyl ester (compound(1)) ( 711 mg), ethanol(25 ml), 1-naphthylamine(333 mg) and 3A molecular sieves(4.5 g.) was stirred under an argon atmosphere at ambient temperature for 6 hours. Acetic acid (0.4 ml) was added followed by sodium cyanoborohydride(l 70 mg). The mixture was then stirred for a further 20 hours when the sieves were removed by filtration. The filtrate was concentrated under reduced pressure and the residue applied to a silica column and eluted with ethyl acetate/hexane(20:80) to give (2S,4S)-1-allyloxycarbonyl-2[(naphthalen-1-ylamino )-methyl]-4-BOCsulfanylpyrrolidine (compound(31)) as a clear oil (560 mg).

reactant | (2S,4S)-2-formyl4-BOCsulfanyl-pyrrolidine-1-carboxylic acid allyl ester | 711 mg | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC(=O)OC(C)(C)C)C=O | C14H21NO5S
reactant | ethanol | 25 ml | C(C)O | C2H6O
reactant | 1-naphthylamine | 333 mg | C1(=CC=CC2=CC=CC=C12)N | C10H9N
reactant | sodium cyanoborohydride | 70 mg | C(#N)[BH3-].[Na+]
solvent | Acetic acid | 0.4 ml | C(C)(=O)O | C2H4O2
product | (2S,4S)-1-allyloxycarbonyl-2[(naphthalen-1-ylamino )-methyl]-4-BOCsulfanylpyrrolidine | 560 mg | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC(=O)OC(C)(C)C)CNC1=CC=CC2=CC=CC=C12 | C24H30N2O4S
